US06599893B2
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-8-oxo-3-([1,2,3]thiadiazol-5-ylsulfanyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (43)
To a solution of (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-trityloxyiminoacetylamino]-8-oxo-3-([1,2,3]thiadiazol-5-ylsulfanyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester (570 mg, 0.61 mmol) in dichloromethane (5 mL) was added triethylsilane (2.5 mL) followed by addition of trifluoroacetic acid (5 mL). After 30 min at 0° C. the reaction mixture was concentrated under vacuum and disopropyl ether was added to the oily residue. The title compound precipitated and was filtered, washed with diisopropyl ether and dried under vacuum (380 mg). The crude product was dissolved in water/1.0 M aqueous sodium bicarbonate. The solution was loaded onto an HP20 column and inorganics were removed by washing the column thoroughly with water. The title compound was isolated by eluting with 4:1 acetonitrile/water mixture, removing acetonitrile under reduced pressure and lyophilizing the residue (145 mg, 43%).

reactant | (7R)-7-[2-(2-amino-5-chlorothiazol-4-yl)-2-trityloxyiminoacetylamino]-8-oxo-3-([1,2,3]thiadiazol-5-ylsulfanyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid benzhydryl ester | 0.61 mmol, 570 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C([C@H](C2SCC1SC1=CN=NS1)NC(C(=NOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1N=C(SC1Cl)N)=O)=O | C46H34ClN7O5S4
reactant | triethylsilane | 2.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-8-oxo-3-([1,2,3]thiadiazol-5-ylsulfanyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)O)SC1=CN=NS1)=NO)Cl | C14H10ClN7O5S4
